US07572790B2
Intermediate 23 (318 mg), {5-[(cyclopropylamino)carbonyl]-3-fluoro-2-methylphenyl}boronic acid (252 mg) and tetrakis(triphenylphosphine) palladium (0) (45 mg) were combined in isopropanol and aqueous sodium hydrogen carbonate solution (1M, 2.7 ml) added. The reaction was stirred under nitrogen at 90° C. for 6 hours. The solvent was evaporated in vacuo and the residue partitioned between ethyl acetate/chloroform (1:1) and water. The organic phase was dried using a hydrophobic filter, the solvent evaporated under vacuum. The residue was dissolved in methanol (10 ml), aqueous sodium hydroxide solution (2M, 10 ml) added and the reaction stirred at 20° C. for 18 hours. The solvents were evaporated and residue partitioned between ethyl acetate/chloroform (1:1) and water. The aqueous layer was acidified to pH1 using concentrated hydrochloric acid and extracted with ethyl acetate/chloroform (1:1). The organic phase was dried using a hydrophobic filter and evaporated, and the residue purified using SPE (5 g, Si), eluting with a methanol/chloroform gradient (1-10%). The solvents were evaporated from the product fraction in vacuo to give 5′-[(cyclopropylamino)carbonyl]-3′-fluoro-2-[(4-hydroxybutyl)oxy]-2′-methyl-4-biphenylcarboxylic acid as a cream solid (140 mg).

reactant | {5-[(cyclopropylamino)carbonyl]-3-fluoro-2-methylphenyl}boronic acid | 252 mg | C1(CC1)NC(=O)C=1C=C(C(=C(C1)B(O)O)C)F | C11H13BFNO3
reactant | sodium hydrogen carbonate | 1M, 2.7 ml | C(O)([O-])=O.[Na+]
reactant | isopropanol | C(C)(C)O | C3H8O
catalyst | tetrakis(triphenylphosphine) palladium (0) | 45 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 5′-[(cyclopropylamino)carbonyl]-3′-fluoro-2-[(4-hydroxybutyl)oxy]-2′-methyl-4-biphenylcarboxylic acid | 140 mg | C1(CC1)NC(=O)C=1C=C(C(=C(C1)C1=C(C=C(C=C1)C(=O)O)OCCCCO)C)F | C22H24FNO5
